US04185115
Preparation of p-[(p-Methoxybenzyl)amino]benzoic Acid
A mixture of 15 g. of ethyl p-[(p-methoxybenzyl)amino]benzoate, (prepared as described in Example 14) 15 g. of potassium hydroxide and 200 ml. of ethanol-water (9:1) are refluxed for 3 hours, acidified while hot with concentrated hydrochloric acid, diluted with water, cooled, filtered and the solid is washed with water to give tan crystals, m.p. 208°-210° C. Recrystallization from ethanol gives off-white crystals, m.p. 209°-210° C.

reactant | ethyl p-[(p-methoxybenzyl)amino]benzoate | COC1=CC=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C17H19NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol water | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-[(p-Methoxybenzyl)amino]benzoic Acid | COC1=CC=C(CNC2=CC=C(C(=O)O)C=C2)C=C1 | C15H15NO3
